US04110447
A mixture of 2.25 g of 3-p-biphenylyl-butylamine, 1.38 g of potassium carbonate, 2.53 g of 1,5-dibromopentane and 15 ml of n-butanol is boiled for 24 hours, while stirring. The mixture is filtered and the filtrate is evaporated and worked up in the customary manner to give 1-piperidino-3-p-biphenylyl-butane.

reactant | 3-p-biphenylyl-butylamine | 2.25 g | C1(=C(C=CC=C1)C(CCN)C)C1=CC=CC=C1 | C16H19N
reactant | potassium carbonate | 1.38 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1,5-dibromopentane | 2.53 g | BrCCCCCBr | C5H10Br2
solvent | n-butanol | 15 ml | C(CCC)O | C4H10O
product | 1-piperidino-3-p-biphenylyl-butane | N1(CCCCC1)CCC(C)C1=C(C=CC=C1)C1=CC=CC=C1 | C21H27N
